US03953500
In 100 ml. of dry tetrahydrofuran is dissolved 3.6 g. of 1,3-dithian and while the solution is chilled to -30°C in nitrogen gas streams and stirred, 10 ml. of a 20 % solution of n-butyl lithium in hexane is added dropwise over a period of about 15 minutes. After the dropwise addition has been completed, the solution is stirred at that temperature for 2 hours and, then, at -5°C for 30 minutes. The solution is chilled again to -20°C and, under stirring, a solution of 7.1 g. of 4-benzoylindan-1-one in 75 ml. of dry tetrahydrofuran is added dropwise. After the dropwise addition has been completed, the mixture is stirred at that temperature for 1 hour, after which it is allowed to stand at 0°C overnight. Then, the solvent is distilled off undr reduced pressure. To the residue is added 15 ml. of dilute hydrochloric acid, followed by extraction with ether. The extract is washed with water and aqueous sodium chloride and, then, dried. The solvent is distilled off under reduced pressure and the residue is purified by column chromatography on silica gel (500 g. silica gel, eluted with a 20:1 mixture of benzene and ethyl acetate). The described procedure gives 2-(4-benzoyl-1-hydroxy-1-indanyl)-1,3-dithian as an oily product. The infrared absorption spectrum (neat) of this product is in good agreement with the assumed structure, absorbing at 1660 cm-1 (ketone) and 3450 cm-1 (hydroxyl).

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1,3-dithian | S1CSCCC1 | C4H8S2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-benzoylindan-1-one | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)=O | C16H12O2
solvent | hexane | CCCCCC | C6H14
product | 2-(4-benzoyl-1-hydroxy-1-indanyl)-1,3-dithian | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)(O)C1SCCCS1 | C20H20O2S2
